US04603011
1-Amino-1-hydroxymethylcyclopropane is dissolved in saturated aqueous NaHCO3 at room temperature. Di-tert-butyl dicarbonate is added in tert-butanol. The contents are stirred overnight and then extracted with ethyl acetate. The organic layer is dried over MgSO4 and filtered. The filtrate is evaporated to give N-Boc-1-amino-1-hydroxymethylcyclopropane.

reactant | 1-Amino-1-hydroxymethylcyclopropane | NC1(CC1)CO | C4H9NO
reactant | Di-tert-butyl dicarbonate | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | tert-butanol | C(C)(C)(C)O | C4H10O
product | N-Boc-1-amino-1-hydroxymethylcyclopropane | C(=O)(OC(C)(C)C)NC1(CC1)CO | C9H17NO3
